US08871782B2
1-[4-Amino-7-(2-aminoethoxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol dihydrochloride (prepared as described in Part A of Example 654, 0.466 g, 1.00 mmol), dichloromethane (10 mL), and triethylamine (0.418 mL, 3.0 mmol) were combined. The mixture was stirred for 10 minutes. Isopropyl isocyanate (0.097 mL, 1.00 mmol) was added and the reaction was stirred for 16 hours. Saturated aqueous sodium carbonate (˜8 mL) was added and the layers were separated. The organic layer was concentrated and purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 2-25% CMA in chloroform). The fractions containing product were combined and concentrated. Trituration of the product in dichloromethane, followed by filtration provided 0.319 g of N-(2-{[4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)-N′-isopropylurea as an off-white powder.

reactant | 1-[4-Amino-7-(2-aminoethoxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol dihydrochloride | Cl.Cl.NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)OCCN
reactant | triethylamine | 3.0 mmol, 0.418 mL | C(C)N(CC)CC | C6H15N
reactant | Isopropyl isocyanate | 1.00 mmol, 0.097 mL | C(C)(C)N=C=O | C4H7NO
reactant | sodium carbonate | ˜8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(2-{[4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)-N′-isopropylurea | 0.319 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)OCCNC(=O)NC(C)C | C23H34N6O4
